US07358268B2
(ii) 2-Carbamoyl-3-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-methyl-3H-imidazole-4-carboxylic acid
A suspension of 194 mg 2-Cyano-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester, 301 mg 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole and 150 mg K2CO3 in 2 ml DMF was stirred for 5 h at RT. After addition of 2 ml brine the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate and then concentrated under reduced pressure. The residue was then dissolved in 5 ml THF/MeOH/water 3:1:1 and treated with 30 mg LiOH monohydrate at RT. Then the solvent was removed under reduced pressure and the residue was taken-up in 5 ml 5 M HCl. The acid precipitated as a brown solid and was dried under reduced pressure. Yield: 280 mg

reactant | 2-Cyano-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | 194 mg | C(C)OC(=O)C=1NC(=NC1C)C#N | C8H9N3O2
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 301 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | K2CO3 | 150 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | brine | 2 ml | [Cl-].[Na+].O
product | 2-Carbamoyl-3-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-methyl-3H-imidazole-4-carboxylic acid | C(N)(=O)C1=NC(=C(N1CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)O)C | C14H11ClN4O4S
